US06211234B1
A mixture of methyl 2-[2-hydroxy-4-(3-thienylmethoxy)phenyl]-4,5-dihydrooxazole-4-carboxylate (1 g) and (2,3-dichloro-5,6-dicyanobenzoquinone (0.8 g) in toluene (100 mL) is stirred at reflux for 2 hours. The reaction is concentrated in vacuo and the residue passed through a pad of silica eluting with 20% ethyl acetate in cyclohexane. The eluant is concentrated in vacuo and the residue partitioned between ethyl acetate (100 mL) and 1N HCl (50 mL). The organic phase is washed with water (20 mL), dried over magnesium sulphate and concentrated in vacuo to give methyl 2-[2-hydroxy-4-(3-thienylmethoxy)phenyl]oxazole-4-carboxylate (400 mg).

reactant | methyl 2-[2-hydroxy-4-(3-thienylmethoxy)phenyl]-4,5-dihydrooxazole-4-carboxylate | 1 g | OC1=C(C=CC(=C1)OCC1=CSC=C1)C=1OCC(N1)C(=O)OC | C16H15NO5S
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 0.8 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-[2-hydroxy-4-(3-thienylmethoxy)phenyl]oxazole-4-carboxylate | 400 mg | OC1=C(C=CC(=C1)OCC1=CSC=C1)C=1OC=C(N1)C(=O)OC | C16H13NO5S
